US04012379
A mixture of 0.356 g. of 7-acetoacetamido-3-acetoxymethyl-3-cephem-4-carboxylic acid, 0.84 g. of sodium hydrogen carbonate, 0.156 g. of 6-methyl-1-oxidopyridazine-3-thiol and 20 ml. of a phosphate buffer of pH 6.4 is heated at 60° C for 7.5 hours. After cooling, the reaction mixture is washed with ethyl acetate, brought to pH 2 with 50 % phosphoric acid, saturated with sodium chloride and extracted with ethyl acetate. The ethyl acetate layer is dried over magnesium sulfate and concentrated under reduced pressure. The concentrate is allowed to stand under cooling with ice. The resultant crystals are loosened with the addition of ethyl ether, recovered by suction-filtration, washed with hexane and dried. The procedure gives 7-acetoacetamido-3-(6-methyl-1-oxidopyridazin-3-yl)thiomethyl-3-cephem-4-carboxylic acid as crystals melting at 85°-87° C (decomp.). Yield 0.18 g. (41 %).

reactant | 7-acetoacetamido-3-acetoxymethyl-3-cephem-4-carboxylic acid | C(CC(=O)C)(=O)NC1[C@@H]2N(C(=C(CS2)COC(C)=O)C(=O)O)C1=O | C14H16N2O7S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | 6-methyl-1-oxidopyridazine-3-thiol | CC1=CC=C(N=[N+]1[O-])S | C5H6N2OS
reactant | phosphate | P(=O)([O-])([O-])[O-]
product | 7-acetoacetamido-3-(6-methyl-1-oxidopyridazin-3-yl)thiomethyl-3-cephem-4-carboxylic acid | C(CC(=O)C)(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2N=[N+](C(=CC2)C)[O-])C(=O)O)C1=O | C17H18N4O6S2
